US07381719B2
(±)-3-Cyclohexyl-piperidine
Combine 3-phenyl-piperidine hydrochloride (0.206 g, 1.04 mmol) and 5% rhodium on alumina (0.112 g, 0.0544 mmol) in methanol (50 mL) and stir at 50° C. at a H2 pressure of 60 psi. After 4 d, purify the reaction mixture by ion exchange chromatography (SCX resin, methanol→2 M ammonia/methanol) to provide 0.164 g (3:1 mixture of product:starting material) which was used in the next step without further purification: mass spectrum (electrospray): m/z=168.1 (M+1−product), 162.1 (M+1−starting material).

reactant | 3-phenyl-piperidine hydrochloride | 1.04 mmol, 0.206 g | Cl.C1(=CC=CC=C1)C1CNCCC1
solvent | methanol | 50 mL | CO | CH4O
catalyst | rhodium on alumina | 0.0544 mmol, 0.112 g | [Rh] | Rh
product | (±)-3-Cyclohexyl-piperidine | C1(CCCCC1)C1CNCCC1 | C11H21N
